US07547783B2
Preparation of 2,6-bis[1-(4-eicosanoxy-2-methylphenylimino)ethyl]pyridine
10.0 g (25 mmol) 4-eicosanoxy-2-methylaniline was reacted under stirring with 2.3 g (14 mmol) 2,6-diacetylpyridine in the presence of 29 g 4 Å molecular sieves in 250 ml of refluxing toluene for 20 h. Subsequently the compound was filtered while hot, and volatiles removed from residue under reduced pressure. It was then washed with hot ethanol (300 ml) to give a yellow solid, which was dried in the vacuum oven (9.1 g, 69% yield).

reactant | 4-eicosanoxy-2-methylaniline | 25 mmol, 10.0 g | C(CCCCCCCCCCCCCCCCCCC)OC1=CC(=C(N)C=C1)C | C27H49NO
reactant | 2,6-diacetylpyridine | 14 mmol, 2.3 g | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-bis[1-(4-eicosanoxy-2-methylphenylimino)ethyl]pyridine | 69% yield | C(CCCCCCCCCCCCCCCCCCC)OC1=CC(=C(C=C1)N=C(C)C1=NC(=CC=C1)C(C)=NC1=C(C=C(C=C1)OCCCCCCCCCCCCCCCCCCCC)C)C | C63H103N3O2
